US08729263B2
Step 1: 1-(Benzyloxy)-7-bromoisoquinoline
To a 25 mL round-bottom flask containing 7-bromoisoquinolin-1-ol (500 mg, 2.23 mmol) was added TEA (0.467 mL, 3.35 mmol) and benzyl bromide (0.319 mL, 2.68 mmol) in DMF (10 mL) to give a brown solution. The reaction was heated to 80° C. overnight. After cooling to RT, the reaction mixture was concentrated in vacuo, and taken up in DCM and water. The aqueous layer was extracted with DCM (2×), and the combined organics fractions were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purify by flash column chromatography (10-30-50% EtOAc/Heptanes), providing the title compound (640 mg, 2.037 mmol, 91% yield). M+1=316.0. 1H NMR (400 MHz, CHLOROFORM-d) δ 8.62 (d, J=2.01 Hz, 1H), 7.73 (dd, J=2.13, 8.41 Hz, 1H), 7.39 (d, J=8.28 Hz, 1H), 7.28-7.36 (m, 5H), 7.11 (d, J=7.53 Hz, 1H), 6.46 (d, J=7.28 Hz, 1H), 5.23 (s, 2H).

reactant | 7-bromoisoquinolin-1-ol | 2.23 mmol, 500 mg | BrC1=CC=C2C=CN=C(C2=C1)O | C9H6BrNO
reactant | benzyl bromide | 2.68 mmol, 0.319 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(Benzyloxy)-7-bromoisoquinoline | 2.037 mmol, 640 mg, 91% yield | C(C1=CC=CC=C1)OC1=NC=CC2=CC=C(C=C12)Br | C16H12BrNO
